US05399720
88.6 g of the hydroxy-β-lactone from Example 1k), 51.7 g of N-formyl-(S)-leucine and 98.4 g of triphenylphosphine were dissolved in 1000 ml of THF while stirring. A solution of 72.6 g of diethyl azodicarboxylate in 250 ml of THF was added dropwise to the solution which was cooled to -10° C. The reaction solution was stirred at -10° C. for 15 hours. Subsequently, the solvent was evaporated. The crystal slurry was partitioned several times between hexane and 70% methanol water while stirring. The combined hexane phases were dried over sodium sulphate, the drying agent was filtered off under suction and washed with hexane. After distillation of the hexane the crude product was dissolved in hexane and cooled slowly to 5° . The crystallizate was filtered off under suction, washed with hexane and dried. 98.0 g of N-formyl-L-leucine-(S)-1-[[(2S,3S)-3-hexyl-4-oxo-2-oxetanyl]methyl]-dodecyl ester, m.p. 44°-45° C., were obtained.

reactant | N-formyl-(S)-leucine | 51.7 g | C(=O)N[C@@H](CC(C)C)C(=O)O | C7H13NO3
reactant | triphenylphosphine | 98.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 72.6 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | THF | 1000 ml | C1CCOC1 | C4H8O
reactant | THF | 250 ml | C1CCOC1 | C4H8O
product | N-formyl-L-leucine-(S)-1-[[(2S,3S)-3-hexyl-4-oxo-2-oxetanyl]methyl]-dodecyl ester | 98.0 g | C(CCCCC)[C@H]1[C@@H](OC1=O)C[C@H](CCCCCCCCCCC)OC([C@@H](NC=O)CC(C)C)=O | C29H53NO5
